US06147088
Step 8C 1-[3-(3-bromophenyl)-7-chloro-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-3-cyclopropyl urea
To a solution of 2-{2-[3-(3-bromophenyl)-7-chloro-6-(3-cyclopropyl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (14 mg in 2.0 mL methylene chloride) was added 2 drops of anisole followed by 2.0 mL of trifluoroacetic acid and the mixture stirred at room temperature. After 30 minutes the solvents were removed in vacuo and the resulting residue purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 95:5:1; then 90:10:1) to give the title compound (6.0 mg).

reactant | 2-{2-[3-(3-bromophenyl)-7-chloro-6-(3-cyclopropyl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mL, 14 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1CC1)Cl)=O)C1=CC(=CC=C1)Br | C31H36BrClN4O5
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | anisole | 2 drops | C1(=CC=CC=C1)OC | C7H8O
product | 1-[3-(3-bromophenyl)-7-chloro-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-3-cyclopropyl urea | 6.0 mg | BrC=1C=C(C=CC1)C=1C(NC2=CC(=C(C=C2C1OCCC1NCCCC1)NC(=O)NC1CC1)Cl)=O | C26H28BrClN4O3
